US08350044B2
Preparation of (2-bromo-4-methyl-thiazol-5-yl)-methyl-carbamic acid tert-butyl ester
To a solution of (2-bromo-4-methyl-thiazol-5-yl)-carbamic acid tert-butyl ester (2.93 g, 10 mmol) in DMF (50 mL) at 0° C. was added NaH (480 mg, 12 mmol, 60% dispersion in mineral oil) in one portion and the suspension was stirred for 1 h. Iodomethane (0.65 mL, 10.5 mmol) was added in one portion, and after 5 min the reaction mixture was warmed to ambient temperature and stirred for 5 h. Water and ethyl acetate were added and the resulting biphasic mixture was separated. The aqueous layer was extracted one time with ethyl acetate. The combined organic extracts were washed twice with brine, dried over Na2SO4, filtered and concentrated to dryness under reduced pressure. The crude product was purified by silica gel chromatography (0-100% ethyl acetate/hexanes) to give the desired product as a clear oil (1.66 g, 54%): IR (KBr) 1688 cm−1; 1H NMR (300 MHz, CDCl3) δ 2.98 (s, 3H), 2.29 (s, 3H), 1.54 (s, 9H); ESIMS m/z 309 (M+2).

reactant | (2-bromo-4-methyl-thiazol-5-yl)-carbamic acid tert-butyl ester | 10 mmol, 2.93 g | C(C)(C)(C)OC(NC1=C(N=C(S1)Br)C)=O | C9H13BrN2O2S
reactant | NaH | 12 mmol, 480 mg | [H-].[Na+]
reactant | Iodomethane | 10.5 mmol, 0.65 mL | IC | CH3I
reactant | Water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-bromo-4-methyl-thiazol-5-yl)-methyl-carbamic acid tert-butyl ester | 1.66 g, 54% | C(C)(C)(C)OC(N(C)C1=C(N=C(S1)Br)C)=O | C10H15BrN2O2S
